US08957064B2
4-(6-Phenyl-2-trifluoromethyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde
This compound was prepared in a manner according to ethyl 7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-2-carboxylate by using 3-bromo-1,1,1-trifluoroacetone instead of ethyl 3-bromo-2-oxopropanoate in step 5.

reactant | ethyl 7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-2-carboxylate | C(=O)C1=CC=C(C=C1)C1=NC=2N(C=C1C1=CC=CC=C1)C=C(N2)C(=O)OCC | C22H17N3O3
reactant | 3-bromo-1,1,1-trifluoroacetone | BrCC(C(F)(F)F)=O | C3H2BrF3O
product | 4-(6-Phenyl-2-trifluoromethyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=C(N2)C(F)(F)F)C2=CC=C(C=O)C=C2 | C20H12F3N3O
